### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Adjunction/Additive): adjunctions between additive functors 

### PR DESCRIPTION
**Pull request by smorel394**
This provides some results and constructions for adjunctions between functors on preadditive categories:
* If one of the adjoint functors is additive, so is the other.
* If one of the adjoint functors is additive, the equivalence `Adjunction.homEquiv` lifts to
an additive equivalence `Adjunction.homAddEquiv`.
* We also give a version of this additive equivalence as an isomorphism of `preadditiveYoneda`
functors (analogous to `Adjunction.compYonedaIso`), in
`Adjunction.compPreadditiveYonedaIso`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Adjunction/Additive.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+lemma right_adjoint_additive [F.Additive] : G.Additive where
+  map_add {X Y} f g := (adj.homEquiv _ _).symm.injective (by simp [homEquiv_counit])
+
+lemma left_adjoint_additive [G.Additive] : F.Additive where
+  map_add {X Y} f g := (adj.homEquiv _ _).injective (by simp [homEquiv_unit])
+
+/-- If we have an adjunction `adj : F ⊣ G` of functors between preadditive categories,
+and if `F` is additive, then the hom set equivalence upgrades to an `AddEquiv`.-/
+@[simps! (config := .lemmasOnly)]
+def homAddEquivOfLeftAdjoint [F.Additive] (X : C) (Y : D) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Additive.lean:45]: Once the lemmas `left/right_adjoint_additive` have been obtained, I think we may define only one `Adjunction.homAddEquiv` (assuming `F.Additive`). I would think we should declare it with `@[simps!]` (without `.lemmasOnly`), and add `homEquiv_add/sub/neg/zero`, `homEquiv_symm_add/...` lemmas.

Comment (smorel394) [reply Mathlib/CategoryTheory/Adjunction/Additive.lean:45]: Done. The `homEquiv_symm` lemmas can all be proved by `simp`, so the linter might ask to remove them.

Comment (smorel394) [reply Mathlib/CategoryTheory/Adjunction/Additive.lean]: Well, the linter is complaining about all the lemmas you requested: the `homAddEquiv_add` etc lemmas are not in `simp` normal form (would they be that useful if I put them in `simp` normal form, I'm not sure), and the `homAddEquiv_symm_add` etc lemmas can all be proved by `simp`...

Comment (smorel394) [reply Mathlib/CategoryTheory/Adjunction/Additive.lean]: I checked and the automatically generated `homAddEquiv_apply` (and its `symm` version) are also not great. For example, `homAddEquiv_apply` proves that `(adj.homAddEquiv X Y) f = adj.unit.app X ≫ G.map f`, which seems like a bad idea since I had a lot of trouble with the similar lemma `homEquiv_apply` before someone had the great idea to remove its `@[simp]` attribute. 
I would want `homAddEquiv_apply` to just say that `adj.homAddEquiv X Y f = adj.homEquiv X Y f`, and I'm going to change it now to do that.

File: Mathlib/CategoryTheory/Adjunction/Additive.lean [hunk 2]
```diff
@@ -0,0 +1,154 @@
+/-
+Copyright (c) 2024 Sophie Morel. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sophie More, Joël Riou
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Additive.lean:4]:
```suggestion
Authors: Sophie Morel, Joël Riou
```

File: Mathlib/CategoryTheory/Adjunction/Additive.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Adjunction/Additive.lean]: Ah, yes, the `!` in `simps!` unfolded the definition of `homEquiv`... I do not know how to fix this apart from stating each lemma as you did.

File: Mathlib/CategoryTheory/Adjunction/Additive.lean [hunk 3]
```diff
@@ -0,0 +1,154 @@
...
+variable [F.Additive]
+
+/-- If we have an adjunction `adj : F ⊣ G` of functors between preadditive categories,
+and if `F` is additive, then the hom set equivalence upgrades to an `AddEquiv`.
+Note that `F` is additive if and only if `G` is, by `Adjunction.right_adjoint_additive` and
+`Adjunction.left_adjoint_additive`.
+-/
+def homAddEquiv (X : C) (Y : D) : AddEquiv (F.obj X ⟶ Y) (X ⟶ G.obj Y) :=
+  {
+    adj.homEquiv _ _ with
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Additive.lean:51]:
```suggestion
  { adj.homEquiv _ _ with
```

File: Mathlib/CategoryTheory/Adjunction/Additive.lean [hunk 4]
```diff
@@ -0,0 +1,154 @@
...
+@[simp]
+lemma homAddEquiv_zero (X : C) (Y : D) : adj.homEquiv X Y 0 = 0 := by
+  change adj.homAddEquiv X Y 0 = 0
+  rw [map_zero]
+
+@[simp]
+lemma homAddEquiv_add (X : C) (Y : D) (f f' : F.obj X ⟶ Y) :
+    adj.homEquiv X Y (f + f') = adj.homEquiv X Y f + adj.homEquiv X Y f' := by
+  change adj.homAddEquiv X Y (f + f') = _
+  simp [AddEquivClass.map_add]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Additive.lean:73]: The following slightly better syntax can be used for all these lemmas:
```suggestion
    adj.homEquiv X Y (f + f') = adj.homEquiv X Y f + adj.homEquiv X Y f' :=
  map_add (adj.homAddEquiv X Y) _ _
```

File: Mathlib/CategoryTheory/Adjunction/Additive.lean [hunk 5]
```diff
@@ -0,0 +1,154 @@
...
+      Iso.symm_hom, AddEquiv.toAddCommGrpIso_inv, AddCommGrp.coe_comp', AddMonoidHom.coe_coe,
+      Function.comp_apply, AddCommGrp.ofHom_apply, AddMonoidHom.coe_comp, AddEquiv.symm_trans_apply,
+      AddEquiv.symm_symm, AddEquiv.apply_symm_apply, whiskeringLeft_obj_map, whiskerLeft_app]
+    erw [adj.homEquiv_naturality_right_symm]
+    rfl
+
+lemma compPreadditiveYonedaIso_hom_app_app_apply (X : Cᵒᵖ) (Y : D)
+    (a : ULift.{max v₁ v₂, v₁} (Opposite.unop X ⟶ G.obj Y)) :
+      ((adj.compPreadditiveYonedaIso.hom.app Y).app X) a =
+        {down := (adj.homEquiv (Opposite.unop X) Y).symm (AddEquiv.ulift a)} := rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Additive.lean:145]: This looks slightly better:
```suggestion
        ULift.up ((adj.homEquiv (Opposite.unop X) Y).symm (AddEquiv.ulift a)) := rfl
```
(same below)

File: Mathlib/CategoryTheory/Adjunction/Additive.lean [hunk 6]
```diff
@@ -0,0 +1,154 @@
...
+
+open Opposite in
+/-- If we have an adjunction `adj : F ⊣ G` of functors between preadditive categories,
+and if `F` is additive, then the hom set equivalence upgrades to an isomorphism between
+`G ⋙ preadditiveYoneda` and `preadditiveYoneda ⋙ F`, once we throw in the necessary
+universe lifting functors.
+Note that `F` is additive if and only if `G` is, by `Adjunction.right_adjoint_additive` and
+`Adjunction.left_adjoint_additive`.
+-/
+def compPreadditiveYonedaIso :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Additive.lean:119]: I suggest defining the isomorphism in the other direction (the same as `addHomEquiv`):
```lean
def preadditiveYonedaCompIso :
    preadditiveYoneda ⋙ (whiskeringLeft _ _ _).obj F.op ⋙
      (whiskeringRight _ _ _).obj AddCommGrp.uliftFunctor.{max v₁ v₂} ≅
    G ⋙ preadditiveYoneda ⋙ (whiskeringRight _ _ _).obj AddCommGrp.uliftFunctor.{max v₁ v₂} :=
  NatIso.ofComponents
    (fun Y ↦ NatIso.ofComponents
      (fun X ↦ (AddEquiv.ulift.trans ((adj.homAddEquiv (unop X) Y).trans
        AddEquiv.ulift.symm)).toAddCommGrpIso)
      (fun g ↦ by
        ext ⟨y⟩
        exact AddEquiv.ulift.injective (adj.homEquiv_naturality_left g.unop y)))
    (fun f ↦ by
      ext _ ⟨x⟩
      exact AddEquiv.ulift.injective (adj.homEquiv_naturality_right x f))
```
(The simp lemmas for `preadditiveYoneda` are suboptimal...)

Comment (smorel394) [reply Mathlib/CategoryTheory/Adjunction/Additive.lean:117]: I chose this direction to be consistent with [CategoryTheory.Adjunction.compYonedaIso](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Adjunction/Basic.html#CategoryTheory.Adjunction.compYonedaIso), since I'm using almost the same name.

The `simp` lemmas for `preadditiveYoneda` often make the situation more complicated than it was to begin with.

Comment (joelriou) [reply Mathlib/CategoryTheory/Adjunction/Additive.lean:107]: Whichever direction you use, you should try to clean up the proof similarly as above.

**Comment by joelriou** [comment]
Could you also edit the PR description so as to take into account the changes.

**Comment by smorel394** [comment]
> Could you also edit the PR description so as to take into account the changes.

Done.
